US04335138
45.3 g of 2,3-dimethylbutadiene are added to 47.5 g of 5-methyl-hex-1-en-3-one at initially 100° C., at a rate such that the temperature does not drop below 90° C. The mixture is then kept for 1 hour at 100° C. and 30 minutes at 115° C., the excess dimethylbutadiene is distilled off, and the residue is distilled under reduced pressure. 64 g of 3,4-dimethylcyclohex-3-en-1-yl isobutyl ketone, of boiling point 99°-101° C./3 mm Hg, are obtained.

reactant | 2,3-dimethylbutadiene | 45.3 g | CC(=C)C(=C)C | C6H10
reactant | 5-methyl-hex-1-en-3-one | 47.5 g | CC(CC(C=C)=O)C | C7H12O
product | 3,4-dimethylcyclohex-3-en-1-yl isobutyl ketone | 64 g | C(C(C)C)C(=O)C1CC(=C(CC1)C)C | C13H22O
